US06806267B1
(±)-α-[[2-(1H-Pyrrol-1-yl)phenyl]oxy]-p-tolylacetic Acid Ethyl Ester
Sodium hydride (90 mg, 3.9 mmol) was added to a solution of 1-(2-hydroxyphenyl)pyrrole (0.41 g, 2.5 mmol) in anhydrous THF (5 mL) at RT. The reaction mixture was stirred for 1 h at RT, and then a solution of ethyl α-bromo-p-tolylacetate (1.0 g, 3.9 mmol) in anhydrous THF (5 mL) was added dropwise. After 12 h at RT, the solvent was removed in vacuo, and the residue was taken up in dichloromethane. The organic layers were washed with brine, dried, and evaporated. The residue was purified by chromatography (toluene) to give 0.46 g of the title compound as a colorless oil; IR (neat): 1734 cm−1; 1H NMR(CDCl3) d 1.16 (t, 3 H, J=7.0 Hz), 2.33 (s, 3 H), 4.13 (q, 2 H, J=7.0 Hz), 5.48 (s, 1H), 6.31 (m, 2 H), 6.95-7.40 (m, 10 H).

reactant | Sodium hydride | 3.9 mmol, 90 mg | [H-].[Na+]
reactant | 1-(2-hydroxyphenyl)pyrrole | 2.5 mmol, 0.41 g | OC1=C(C=CC=C1)N1C=CC=C1 | C10H9NO
reactant | ethyl α-bromo-p-tolylacetate | 3.9 mmol, 1.0 g | BrC(C(=O)OCC)C1=CC=C(C=C1)C | C11H13BrO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-α-[[2-(1H-Pyrrol-1-yl)phenyl]oxy]-p-tolylacetic Acid Ethyl Ester | 0.46 g | C(C)OC(C(OC1=C(C=CC=C1)N1C=CC=C1)C1=CC=C(C=C1)C)=O | C21H21NO3
